US09238640B2
To a solution of 2-amino-6-chlorobenzoic acid (2.00 g, 11.65 mmol) in anhydrous THF (20 mL) were added 4-methylmorpholine (1.40 mL, 12.82 mmol), HOBT (1.73 g, 12.82 mmol), and EDCl (2.45 g, 12.82 mmol); the reaction mixture was stirred at room temperature for 30 minutes. 50% (v/v) Ammonium hydroxide solution (10 mL, 132.0 mmol) was added and the mixture was stirred at room temperature for 23 hours. Solvent was evaporated to about 20 mL, poured into aqueous NaHCO3 solution (200 mL) and extracted with ethyl acetate (7×100 mL). The organic phase was washed with water (3×100 mL), dried (Na2SO4), filtered, and evaporated, to give 2-amino-6-chlorobenzamide as a white solid. Yield: 1.65 g (83%).

reactant | 2-amino-6-chlorobenzoic acid | 11.65 mmol, 2.00 g | NC1=C(C(=O)O)C(=CC=C1)Cl | C7H6ClNO2
reactant | 4-methylmorpholine | 12.82 mmol, 1.40 mL | CN1CCOCC1 | C5H11NO
reactant | HOBT | 12.82 mmol, 1.73 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 12.82 mmol, 2.45 g | CCN=C=NCCCN(C)C.Cl
reactant | Ammonium hydroxide | 132.0 mmol, 10 mL | [OH-].[NH4+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-amino-6-chlorobenzamide | NC1=C(C(=O)N)C(=CC=C1)Cl | C7H7ClN2O
